US07947683B2
5-(4-methyl-5-phenyl-4H-1,2,4-triazol-3-yl)-1-pentanol
To a solution of 4-methyl-3-(4-penten-1-yl)-5-phenyl-4H-1,2,4-triazole (200 mg, 0.88 mmol) in THF (1 mL) was added 9-BBN (0.5M in THF, 1.76 mmol) and the solution was refluxed for 2 h. Two more portions of 9-BBN (0.88 mmol) were added, each after 1 h. The reaction mixture was cooled down at 0 C and was added NaOH (3M, 21Mmol) in one portion followed by dropwise addition of H2O2 (33% in water, 21Mmol). The mixture was stirred for another 2 h at r.t.

reactant | 4-methyl-3-(4-penten-1-yl)-5-phenyl-4H-1,2,4-triazole | 0.88 mmol, 200 mg | CN1C(=NN=C1C1=CC=CC=C1)CCCC=C | C14H17N3
reactant | 9-BBN | 1.76 mmol, 0.5M | B1C2CCCC1CCC2 | C8H15B
reactant | 9-BBN | 0.88 mmol | B1C2CCCC1CCC2 | C8H15B
reactant | NaOH | 21Mmol, 3M | [OH-].[Na+]
reactant | H2O2 | 21Mmol | OO | H2O2
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 5-(4-methyl-5-phenyl-4H-1,2,4-triazol-3-yl)-1-pentanol | CN1C(=NN=C1C1=CC=CC=C1)CCCCCO | C14H19N3O
